US07141583B2
(5R)-3-(4-(1-Trifluoromethylsulfonyl-1,2,5,6-tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-(1,2,5,6-Tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-oxazolidin-2-one hydrochloride (380 mg, 1 mM) was treated with trifluoromethanesulfonyl chloride essentially as in Example 76. Crude material was purified by chromatography on a 5 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 10% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (444 mg). MS (ESP): 476 (MH+) for C18H17F4N5O4S

reactant | (5R)-3-(4-(1,2,5,6-Tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-oxazolidin-2-one hydrochloride | 1 mM, 380 mg | Cl.N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F
reactant | trifluoromethanesulfonyl chloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
product | (5R)-3-(4-(1-Trifluoromethylsulfonyl-1,2,5,6-tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 444 mg | FC(S(=O)(=O)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F)(F)F | C18H17F4N5O4S
